### PR TITLE
Hatcher's acyclic type is acyclic

### PR DESCRIPTION
**Pull request by tomdjong**

### CODE REVIEW

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md [hunk 1]
```diff
@@ -71,42 +75,47 @@ algebra-Hatcher-Acyclic-Type l =
...
+                      ( s1)) ×
+                    ( coherence-square-identifications
+                      ( ap (map-Ω f) r2)
+                      ( map-power-nat-Ω 3 f a2 ∙ ap (power-nat-Ω 3 B) v)
+                      ( ( map-power-nat-Ω 2 f (a1 ∙ a2)) ∙
+                        ( ap
+                          ( power-nat-Ω 2 B)
+                          ( ( preserves-mul-map-Ω f) ∙
+                            ( horizontal-concat-Id² u v))))
+                      ( s2))))
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:103]:
```suggestion
    Σ ( map-Ω f a1 ＝ b1)
      ( λ u →
        Σ ( map-Ω f a2 ＝ b2)
          ( λ v →
            ( coherence-square-identifications
              ( ap (map-Ω f) r1)
              ( map-power-nat-Ω 5 f a1 ∙ ap (power-nat-Ω 5 B) u)
              ( map-power-nat-Ω 3 f a2 ∙ ap (power-nat-Ω 3 B) v)
              ( s1)) ×
            ( coherence-square-identifications
              ( ap (map-Ω f) r2)
              ( map-power-nat-Ω 3 f a2 ∙ ap (power-nat-Ω 3 B) v)
              ( ( map-power-nat-Ω 2 f (a1 ∙ a2)) ∙
                ( ap
                  ( power-nat-Ω 2 B)
                  ( ( preserves-mul-map-Ω f) ∙
                    ( horizontal-concat-Id² u v))))
              ( s2))))
```

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md [hunk 2]
```diff
@@ -230,6 +239,257 @@ module _
...
+                      ( s1)) ×
+                    ( Id
+                      ( inv (map-power-nat-Ω 3 f a2 ∙ ap (power-nat-Ω 3 B) v) ∙
+                        ( ap (map-Ω f) r2 ∙
+                          ( ( map-power-nat-Ω 2 f (a1 ∙ a2)) ∙
+                            ( ap
+                              ( power-nat-Ω 2 B)
+                              ( ( preserves-mul-map-Ω f) ∙
+                                ( horizontal-concat-Id² u v))))))
+                      ( s2))))
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:274]:
```suggestion
    Σ ( map-Ω f a1 ＝ b1)
      ( λ u →
        Σ ( map-Ω f a2 ＝ b2)
          ( λ v →
            ( Id
              ( inv (map-power-nat-Ω 5 f a1 ∙ ap (power-nat-Ω 5 B) u) ∙
                ( ap (map-Ω f) r1 ∙
                  (map-power-nat-Ω 3 f a2 ∙ ap (power-nat-Ω 3 B) v)))
              ( s1)) ×
            ( Id
              ( inv (map-power-nat-Ω 3 f a2 ∙ ap (power-nat-Ω 3 B) v) ∙
                ( ap (map-Ω f) r2 ∙
                  ( ( map-power-nat-Ω 2 f (a1 ∙ a2)) ∙
                    ( ap
                      ( power-nat-Ω 2 B)
                      ( ( preserves-mul-map-Ω f) ∙
                        ( horizontal-concat-Id² u v))))))
              ( s2))))
```

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md [hunk 3]
```diff
@@ -230,6 +239,257 @@ module _
...
+
+In proving this, it is helpful to consider an equivalent formulation of
+`Hom-algebra-Hatcher-Acyclic-Type-pointed-map` for which torsoriality is almost
+immediate.
+
+```agda
+module _
+  {l1 l2 : Level}
+  ((A , a1 , a2 , r1 , r2) : algebra-Hatcher-Acyclic-Type l1)
+  ((B , b1 , b2 , s1 , s2) : algebra-Hatcher-Acyclic-Type l2)
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:252]: This sort of pattern matching in a module declaration is unwound to `let`-expressions in Agda, which tend to be the opposite of helpful in interactive mode. Hence, it is generally inadvisable to use them. But since you've already finished the section I'm not necessarily asking you to change this. Perhaps @EgbertRijke has a stronger opinion on that though.

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md [hunk 4]
```diff
@@ -71,42 +75,47 @@ algebra-Hatcher-Acyclic-Type l =
...
-                    ( ( preserves-mul-map-Ω f) ∙
-                      ( horizontal-concat-Id² u v))))
-                ( s2)))))
+module _
+  {l1 l2 : Level}
+  ((A , a1 , a2 , r1 , r2) : algebra-Hatcher-Acyclic-Type l1)
+  ((B , b1 , b2 , s1 , s2) : algebra-Hatcher-Acyclic-Type l2)
+  where
+
+  Hom-algebra-Hatcher-Acyclic-Type-pointed-map : (A →∗ B) → UU l2
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:84]: A better name for this thing is `is-hom-pointed-map-algebra-Hatcher-Acyclic-Type`. In particular, `hom` should not be capitalized.

**Review by fredrik-bakke — APPROVED** [review]
Nice!

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md (hunk 1 above)
Comment (tomdjong) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:103]: Ah, sorry copy-paste error I forgot to fix. Thanks!

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md (hunk 3 above)
Comment (tomdjong) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:252]: I thought it might be OK because prior to my editing the file already used this.

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md (hunk 4 above)
Comment (tomdjong) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:84]: Ah, thanks for bringing this up. The issue I had with `is-hom-...` is that the type is not necessarily a proposition. Is it OK to use the prefix `is` in that case?

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:84]: Yep. We for instance use `is-...` for `is-section` and `is-retraction`

Comment (tomdjong) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md]: OK, thank you. Fixed now.

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md]: No worries!

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md [hunk 5]
```diff
@@ -71,42 +75,47 @@ algebra-Hatcher-Acyclic-Type l =
...
+              ( map-power-nat-Ω 3 f a2 ∙ ap (power-nat-Ω 3 B) v)
+              ( ( map-power-nat-Ω 2 f (a1 ∙ a2)) ∙
+                ( ap
+                  ( power-nat-Ω 2 B)
+                  ( ( preserves-mul-map-Ω f) ∙
+                    ( horizontal-concat-Id² u v))))
+              ( s2))))
+
+  Hom-algebra-Hatcher-Acyclic-Type : UU (l1 ⊔ l2)
+  Hom-algebra-Hatcher-Acyclic-Type =
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:106]: Sorry for being unclear, the same applies here: `hom` should be uncapitalized.

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md (hunk 3 above)
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:252]: Let's accept this for now and fix it later, but I agree with Fredrik that if this use of pattern matching messes up the way Agda displays goals then this problem should be addressed sometime. Thanks for noticing it Fredrik!

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md [hunk 6]
```diff
@@ -230,6 +239,263 @@ module _
         ( is-torsorial-path refl)
 ```
 
+### For a fixed pointed map, the `is-hom-pointed-map-algebra-Hatcher-Acyclic-Type` family is [torsorial](foundation.torsorial-type-families.md)
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:242]: Links in headers should probably be avoided. How about moving the link to where "torsoriality" is mentioned in the prose below

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md (hunk 5 above)
Comment (tomdjong) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:106]: Happy to use lowercase, but it thought it would be line with things like `Pointed-Type`? Can you explain the convention?

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:106]: Well, it's complicated, and we are in a (slow) process of shaping out a more detailed naming convention. But basically, the capitalized part of a name should function as a namespace for the entry. In particular, it always comes last in the name, and there's at most one namespace for every entry.

If you want more context, Egbert wrote up a draft for a new naming convention a while ago that you can find here:
https://github.com/UniMath/agda-unimath/pull/793/files#diff-ae980e981cdc5f111930bf629a726443e1fb5cb0b251ab39539c20d8ff4598da

File: src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md [hunk 7]
```diff
@@ -71,40 +75,45 @@ algebra-Hatcher-Acyclic-Type l =
...
+                  ( ( preserves-mul-map-Ω f) ∙
+                    ( horizontal-concat-Id² u v))))
+              ( s2))))
+
+  hom-algebra-Hatcher-Acyclic-Type : UU (l1 ⊔ l2)
+  hom-algebra-Hatcher-Acyclic-Type =
+    Σ ( A →∗ B) is-hom-pointed-map-algebra-Hatcher-Acyclic-Type
 ```
 
 ### The Hatcher acyclic type is the initial Hatcher acyclic algebra
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:110]: Whoops, I just noticed that this header doesn't match the section's contents.
One possibility is
```suggestion
### The universal property of Hatcher's acyclic type

The universal property of Hatcher's acyclic type is that it is initial among
Hatcher acyclic algebras.
```
Sorry for the patchy review. I think it is ready to be merged after this one.

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:110]: Actually, perhaps that's not a good header either, as the definition doesn't make reference to Hatcher's acyclic type

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md:110]: Here's another alternative, I'll let you decide.
```suggestion
### Initial Hatcher acyclic algebras

One characterization of Hatcher's acyclic type is through its universal property
as being the initial Hatcher acyclic algebra.
```

Comment (tomdjong) [reply src/synthetic-homotopy-theory/hatchers-acyclic-type.lagda.md]: Not at all patchy!

**Comment by tomdjong** [comment]
Thanks @fredrik-bakke, very helpful as always!

**Comment by fredrik-bakke** [comment]
Thanks for the contribution, @tomdjong!
